US05468865
A solution of 5 g. of (R)-N-(3,4-dimethoxybenzyl)-N-(3-chlorophenylcarboxymethyl)-1-(3,4-dimethoxyphenyl)-prop-2-ylamine hydrochloride in 100 mL of methanol at -78° C. is treated with 0.71 g. of sodium borohydride, added in several portions over one hour. The mixture is stirred for an additional hour and then allowed to reach room temperature. The solvent is removed by evaporation to yield (R)-N-(3,4-dimethoxybenzyl)-N-[2-(3-chlorophenyl)-2-hydroxyeth-1-yl]-1-(3,4-dimethoxyphenyl)-prop-2-ylamine, which is dissolved in methylene chloride, washed with 3N aqueous sodium hydroxide and brine, and dried over magnesium sulfate. 1H NMR (250 MHz, CDCl3) d 1.02 (d, 3H, J=6.3 Hz), 2.4-2.7 (m, 4H), 3.1-3.25 (m, 1H), 3.35 (1/2ABq, 1H, J=13.3 Hz), 3.69 (s, 3H), 3.75 (s, 3H), 3.81 (br. s, 6H), 3.7-3.8 (m, 1H), 4.21 (m, minor isomer CHOH), 4.55 (m, major isomer CHOH), 6.52-6.76 (m, 6H), 7.19-7.33 (m, 4H). The product contains 97.9% R,R diastereoisomer and 2.1% S,R diastereoisomer.

reactant | (R)-N-(3,4-dimethoxybenzyl)-N-(3-chlorophenylcarboxymethyl)-1-(3,4-dimethoxyphenyl)-prop-2-ylamine hydrochloride | Cl.COC=1C=C(CN(C(C(=O)O)C2=CC(=CC=C2)Cl)[C@@H](CC2=CC(=C(C=C2)OC)OC)C)C=CC1OC
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | (R)-N-(3,4-dimethoxybenzyl)-N-[2-(3-chlorophenyl)-2-hydroxyeth-1-yl]-1-(3,4-dimethoxyphenyl)-prop-2-ylamine | COC=1C=C(CN(CC(O)C2=CC(=CC=C2)Cl)[C@@H](CC2=CC(=C(C=C2)OC)OC)C)C=CC1OC | C28H34ClNO5
